US06451821B1
A light suspension, under an inert atmosphere, of 1.4 g of ethyl (2R)-2-(acetylamino)-3-(3-nitrophenyl)propanoate in 13 cm3 of ethanol is cooled to a temperature of 20° C. and 0.29 g of sodium borohydride is then added thereto. The yellow solution obtained is stirred at room temperature for 18 hours. The reaction medium is then concentrated under reduced pressure (2 kPa) at a temperature in the region of 50° C., after which 10 cm3 of water are added and the mixture is extracted with twice 50 cm3 of ethyl acetate. The combined organic phases are dried over sodium sulfate, filtered and then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1 g of N-[(1R)-2-hydroxy-1-(3-nitrobenzyl)ethyl]-acetamide is obtained in the form of pale yellow crystals melting at 135° C. 1H NMR spectrum (250 MHz, (CD3)2SO-d6, δ in ppm): 1.75 (s: 3H); 2.74 (dd, J=14 and 9 Hz: 1H); 3.02 (dd, J=14 and 5 Hz: 1H); from 3.25 to 3.45 (mt: 2H); 3.96 (mt: 1H); 4.90 (broad s: 1H); 7.59 (t, J=8 Hz: 1H); 7.70 (broad d, J=8 Hz: 1H); 7.82 (d, J=8.5 Hz: 1H); from 8.05 to 8.15 (mt: 2H).

reactant | ethyl (2R)-2-(acetylamino)-3-(3-nitrophenyl)propanoate | 1.4 g | C(C)(=O)N[C@@H](C(=O)OCC)CC1=CC(=CC=C1)[N+](=O)[O-] | C13H16N2O5
reactant | sodium borohydride | 0.29 g | [BH4-].[Na+]
solvent | ethanol | 13 cm3 | C(C)O | C2H6O
product | N-[(1R)-2-hydroxy-1-(3-nitrobenzyl)ethyl]-acetamide | 1 g | OC[C@@H](CC1=CC(=CC=C1)[N+](=O)[O-])NC(C)=O | C11H14N2O4
